US07060836B2
tert-Butyl 4-(3-cyano-2-pyridinyl)-1-piperazinecarboxylate
A mixture of 2-chloro-3-cyanopyridine (15.2 g, 0.11 mol), tert-butyl 1-piperazinecarboxylate (25 g, 0.13 mol) and triethylamine (18 ml, 0.13 mol) in toluene (200 ml), was heated under reflux for 24 hours. The cooled mixture was concentrated under reduced pressure and the residue suspended in ethyl acetate (250 ml), and washed with water (3×). The organic solution was dried (MgSO4), and concentrated under reduced pressure. The residue was triturated with pentane, filtered and dried in vacuo, at 60° C., to afford the title compound as a cream coloured solid, 24.2 g.

reactant | 2-chloro-3-cyanopyridine | 0.11 mol, 15.2 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | tert-butyl 1-piperazinecarboxylate | 0.13 mol, 25 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 0.13 mol, 18 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(3-cyano-2-pyridinyl)-1-piperazinecarboxylate | C(#N)C=1C(=NC=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O2
